US07153996B2
A 5 cc autoclave is charged with 2 cc of an aqueous solution containing 2 mmoles of levulinic acid and 0.2 mmoles of formic acid. 3 wt. % toluene sulfonic acid is added as a catalyst. The reactor is pressurized to 0.69 MPa with 1-hexene and heated to 100° C. for 2 hours while maintaining a constant pressure of 1-hexene. After cooling, the organic phase is separated. A mixture of hexyl formate and hexyl levulinate is formed as product.

reactant | levulinic acid | 2 mmoles | C(CCC(=O)C)(=O)O | C5H8O3
reactant | formic acid | 0.2 mmoles | C(=O)O | CH2O2
reactant | toluene sulfonic acid | C=1(C(=CC=CC1)S(=O)(=O)O)C | C7H8O3S
reactant | 1-hexene | C=CCCCC | C6H12
product | hexyl levulinate | C(CCC(=O)C)(=O)OCCCCCC | C11H20O3
